US09370515B2
Preparation of 6-chloro-N-cyclopropylimidazo[1,2-b]pyridazin-8-amine
To a solution of 8-bromo-6-chloroimidazo[1,2-b]pyridazine (1.00 g, 3.21 mmol, 1.0 equiv) and p-TSA (611 mg, 3.21 mmol, 1.0 equiv) in DMSO (10.0 mL) was added cyclopropylamine (1.13 mL, 16.1 mmol, 5.0 equiv) and heated to 100° C. for 24 h. Purification by column chromatography using 50% ethyl acetate in hexanes elution gave 536 mg of the white solid, 80%.

reactant | 8-bromo-6-chloroimidazo[1,2-b]pyridazine | 3.21 mmol, 1.00 g, 1.0 equiv | BrC=1C=2N(N=C(C1)Cl)C=CN2 | C6H3BrClN3
reactant | p-TSA | 3.21 mmol, 611 mg, 1.0 equiv | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | cyclopropylamine | 16.1 mmol, 1.13 mL, 5.0 equiv | C1(CC1)N | C3H7N
solvent | DMSO | 10.0 mL | CS(=O)C | C2H6OS
product | 6-chloro-N-cyclopropylimidazo[1,2-b]pyridazin-8-amine | 536 mg | ClC=1C=C(C=2N(N1)C=CN2)NC2CC2 | C9H9ClN4
